US08461134B2
4-Amino-2-((3-ethyl-1,2,4-oxadiazol-5-yl)methyl)-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)benzenesulfonamide
To a stirred solution of 2-(5-amino-2-(N-(1-hydroxy-1,3-dihydrobenzo [c][1,2]oxaborol-6-yl)sulfamoyl)phenyl)acetic acid (0.5 g, 1.4 mmol) and (E)-N′-hydroxypropionimidamide (0.19 mL, 2.1 mmol) in 10 mL of DMF was added EDC (0.5 g, 3.6 mmol) and HOBt (700 mg, 3.6 mmol). The reaction mixture was stirred for 24 hours. After water was added, the reaction mixture was extracted with ethyl acetate and washed with water, 1N HCl and brine. The organic layer was dried over Na2SO4 and concentrated. The residue was purified by prep HPLC (SunFire Prep C18 OBD 5 uM 30×50 mm column) to give the title compound as a yellow solid (6 mg, yield 13%), and cyclized product (7 mg, yield 1%). 4-Amino-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)-2-((3-ethyl-1,2,4-oxadiazol-5-yl)methyl)benzenesulfonamide: MS calcd for (C18H19BN4O5S): 414.24. MS found (ESI negative): (M−H)−=413.1. 1H NMR (DMSO-d6) δ (ppm): 10.0 (s, 1H), 9.18 (bs, 1H), 7.55 (d, J=8.8 Hz, 1H), 7.41 (s, 1H), 7.22 (d, J=8 Hz, 1H), 7.08 (dd, J=8, 2 Hz, 1H), 6.45 (dd, J=8.8, 2 Hz, 1H, 6.39 (d, J=3 Hz, 1H), 4.86 (s, 2H), 4.48 (s, 2H), 2.63 (q, J=7.6 Hz 2H), 1.17 (t, J=7.6 Hz, 3H).

reactant | 2-(5-amino-2-(N-(1-hydroxy-1,3-dihydrobenzo [c][1,2]oxaborol-6-yl)sulfamoyl)phenyl)acetic acid | 1.4 mmol, 0.5 g | NC=1C=CC(=C(C1)CC(=O)O)S(NC=1C=CC2=C(B(OC2)O)C1)(=O)=O | C15H15BN2O6S
reactant | (E)-N′-hydroxypropionimidamide | 2.1 mmol, 0.19 mL | O/N=C(\CC)/N | C3H8N2O
reactant | EDC | 3.6 mmol, 0.5 g
reactant | HOBt | 3.6 mmol, 700 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-Amino-2-((3-ethyl-1,2,4-oxadiazol-5-yl)methyl)-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)benzenesulfonamide | 6 mg, yield 13% | NC1=CC(=C(C=C1)S(=O)(=O)NC=1C=CC2=C(B(OC2)O)C1)CC1=NC(=NO1)CC | C18H19BN4O5S
